US06239151B1
In a manner analogous to that described in Example 8 from (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-2′-(2-ethylbutyl)-4-methylvalerohydrazide and using 1,2,4-triazole-1-acetic acid in place of N-tert-butoxycarbonyl-β-alanine there was obtained (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-2′-(2-ethylbutyl)-4-methyl-2′-[2-(1H-1,2,4-triazol-1-yl)acetyl]valerohydrazide.

reactant | (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-2′-(2-ethylbutyl)-4-methylvalerohydrazide | C(C1=CC=CC=C1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(CC)CC)CC(C)C | C30H43N3O3
reactant | 1,2,4-triazole-1-acetic acid | N1(N=CN=C1)CC(=O)O | C4H5N3O2
product | (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-2′-(2-ethylbutyl)-4-methyl-2′-[2-(1H-1,2,4-triazol-1-yl)acetyl]valerohydrazide | C(C1=CC=CC=C1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(CN1N=CN=C1)=O)CC(CC)CC)CC(C)C | C34H46N6O4
